US06124462
The general procedure from Example 12 was followed using 2-chloroanisole (143 mg, 1.0 mmol) and 4-MeC6H4B(OH)2 (204 mg, 1.5 mmol) with Pd2 (dba)3 (13.3 mg, 0.0145 mmol) and (Me3C)2PH(O) from Experiment 2 (9.6 mg, 0.058 mmol) and CsF (456 mg, 3.0 mmol) in 4.0 mL of 1,4-dioxane. After 24 h, the reaction mixture was chromatographed with 5% ethyl acetate/hexane to give 165 mg (83% yield) of 2-(4-methylphenyl)anisole. It was >95% pure by 1H NMR and GC/MS. 1H NMR (500 MHz, CDCl3): δ7.32 (d, J=8.06 Hz, 2H), 7.18 (m, 2H), 7.10 (d, J=7.88 Hz, 2H), 6.92-6.84 (m, 2H), 3.67 (s, 3H), 2.28 (s, 3H) ppm. 13C NMR (125 Mhz, CDCl3): δ 156.5, 136.5, 135.6, 130.7, 129.4, 128.7, 128.3, 120.8, 111.2, 55.5, 21.1 ppm.

reactant | 2-chloroanisole | 1.0 mmol, 143 mg | ClC1=C(C=CC=C1)OC | C7H7ClO
reactant | 4-MeC6H4B(OH)2 | 1.5 mmol, 204 mg | CC1=CC=C(C=C1)B(O)O | C7H9BO2
reactant | CsF | 3.0 mmol, 456 mg | [F-].[Cs+]
solvent | 1,4-dioxane | 4.0 mL | O1CCOCC1 | C4H8O2
catalyst | Pd2 (dba)3 | 0.0145 mmol, 13.3 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 2-(4-methylphenyl)anisole | 165 mg, 83% yield | CC1=CC=C(C=C1)C1=C(C=CC=C1)OC | C14H14O
